US09102682B2
Intermediate B: tert-butyl N-[2-(benzyloxycarbonylamino)-4-methyl-pentyl]carbamate
To benzyl N-[1-(aminomethyl)-3-methyl-butyl]carbamate 4.5 g (0.018 mole) in THF (60 mL) was added 2N NaOH (18 mL) followed by the addition of di-tert-butyl dicarbonate 4.19 g (1.07 eq). After stirring for 16 hrs, ethyl acetate was added and the layers separated. After drying with magnesium sulfate and concentration under vacuum, the crude product was taken to the next step. 1H NMR (600 MHz, CHLOROFORM-d) δ ppm 0.89 (d, J=6.73 Hz, 6H) 1.25-1.34 (m, 1H) 1.39 (s, 9H) 1.57-1.71 (m, 2H) 3.04-3.26 (m, 2H) 3.68-3.80 (m, 1H) 4.72-4.89 (m, 2H) 5.06 (s, 2H) 7.25-7.38 (m, 5H). LCMS (ESI) 351 (M+H).

reactant | benzyl N-[1-(aminomethyl)-3-methyl-butyl]carbamate | 0.018 mole, 4.5 g | NCC(CC(C)C)NC(OCC1=CC=CC=C1)=O | C14H22N2O2
reactant | NaOH | 2N, 18 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.19 g, 1.07 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-butyl N-[2-(benzyloxycarbonylamino)-4-methyl-pentyl]carbamate | C(C1=CC=CC=C1)OC(=O)NC(CNC(OC(C)(C)C)=O)CC(C)C | C19H30N2O4
